US04822902
N-(1',1'-dimethyl-3'-acetoxyacetonyl)-3,5-dichlorobenzamide
N-(1',1'-dimethyl-3'-chloroacetonyl)-3,5-dichlorobenzamide (20 gm, 0.065 m) was dissolved in 100 ml of dry DMF and 10.6 gm (0.128 m) of sodium acetate was added. The slurry was blanketed under a nitrogen atmosphere and then heated to 80°-90° C. for 4 days. The reaction mixture was cooled by adding 100 ml of water. The aqueous solution was extracted four times with 10 ml aliquots of methylene chloride. The combined organic extracts were washed with water (3×100 ml) and brine. The solvent was removed, the resulting white solid dried and then recrystallized from an acetone and hexane (about 1:4) mixture to yield 10.2 gm of the product.

reactant | N-(1',1'-dimethyl-3'-chloroacetonyl)-3,5-dichlorobenzamide | 20 gm | CC(C(=O)CCl)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C12H12Cl3NO2
reactant | sodium acetate | 10.6 gm | C(C)(=O)[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-(1',1'-dimethyl-3'-acetoxyacetonyl)-3,5-dichlorobenzamide | 10.2 gm | CC(C(=O)COC(C)=O)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C14H15Cl2NO4
